US08455613B2
Step 3: Tert-butyl 4-(4-bromophenoxy)butylcarbamate
4-(4-bromophenoxy)butan-1-amine (1.0 g, 4.09 mmol) was dissolved in anhydrous THF (20 mL) under nitrogen and stirred until solution is homogenous. Di-tert-butyl-dicarbonate (1.34 g, 6.14 mmol) was added and the reaction was stirred at 40° C. for 2 hours. The reaction was quenched with water (30 mL) and stirred at room temperature for 1.0 hour. The aqueous layer was extracted with ethyl acetate (50 mL×2). The organic layers were combined, washed with saturated NaHCO3, water, and brine, then dried over MgSO4, and filtered. Removal of solvent yield a solid, which was purified by column chromatography (9:1, hexanes:EtOAc) to yield white solids (1.0 g, 71%).

reactant | 4-(4-bromophenoxy)butan-1-amine | 4.09 mmol, 1.0 g | BrC1=CC=C(OCCCCN)C=C1 | C10H14BrNO
reactant | Di-tert-butyl-dicarbonate | 6.14 mmol, 1.34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Tert-butyl 4-(4-bromophenoxy)butylcarbamate | 1.0 g, 71% | BrC1=CC=C(OCCCCNC(OC(C)(C)C)=O)C=C1 | C15H22BrNO3
